US04368150
Synthesis of H-Tyr-Arg-OH (Kyotorphin)
Arg, 1.06(1); Tyr, 0.94(1); Average recovery, 90.6%

reactant | Arg | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | Tyr | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
product | H-Tyr-Arg-OH | N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C15H23N5O4
